US07557213B2
Preparation of 3-(3,4-Dimethyl-benzoyl)-1-(6-fluoro-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 49 mg (0.18 mmol) of 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one, 8 mg (0.21 mmol) of 60% sodium hydride, 40 mg (0.21 mmol) 2-bromomethyl-6-fluoro-pyridine and 0.8 mL of N,N-dimethylformamide. Yield: 28 mg of a white solid: LC-MSD, m/z for C24H19FN2O2 [M+H]+=387.3; HPLC retention time: 2.6 min.

reactant | 3-(3,4-dimethyl-benzoyl)-1H-quinolin-4-one | 0.18 mmol, 49 mg | CC=1C=C(C(=O)C2=CNC3=CC=CC=C3C2=O)C=CC1C | C18H15NO2
reactant | sodium hydride | 0.21 mmol, 8 mg | [H-].[Na+]
reactant | 2-bromomethyl-6-fluoro-pyridine | 0.21 mmol, 40 mg | BrCC1=NC(=CC=C1)F | C6H5BrFN
solvent | N,N-dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
product | 3-(3,4-Dimethyl-benzoyl)-1-(6-fluoro-pyridin-2-ylmethyl)-1H-quinolin-4-one | CC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)F)C=CC1C | C24H19FN2O2
